US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-2-cyanomethyl-4-hydroxypyrrolidine (2.95 g) in dichloromethane (30 ml) were added triethylamine (1.85 g) and a solution of methanesulfonyl chloride (1.76 g) in dichloromethane (2 ml) at ice-cooling. After stirring at 5°-10° C. for 1 hour, the solution was poured into an ice water. The separated organic layer was washed with water and aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and evaporated to give (2R,4R)-1-allyloxycarbonyl-2-cyanomethyl-4-methanesulfonyloxypyrrolidine (4.44 g).

reactant | (2R,4R)-1-allyloxycarbonyl-2-cyanomethyl-4-hydroxypyrrolidine | 2.95 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CC#N | C10H14N2O3
reactant | triethylamine | 1.85 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.76 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-allyloxycarbonyl-2-cyanomethyl-4-methanesulfonyloxypyrrolidine | 4.44 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CC#N | C11H16N2O5S
